US07291627B2
2-acetylamino-N-[2-(1H-indol-3-yl)-ethyl]acetamide
Diphenylphosphorylazide (5.8 ml, 27.5 ml) and triethylamine (3.85 ml, 27.5 ml) were added in succession to a mixture of tryptamine (4.32 g, 27 mmol) and N-acetylglycine (3.3 g, 28 mmol) in DMF (100 ml) cooled to 0° C. The mixture was stirred under nitrogen at ambient temperature for 12 h, then the solvent was eliminated under reduced pressure. The residue obtained was flash chromatographed on silica gel to produce the expected product (m=5.5 g, 21 mmol), giving a yield of 78%.

reactant | Diphenylphosphorylazide | 5.8 ml | C1(=CC=CC=C1)P(=O)(C1=CC=CC=C1)N=[N+]=[N-] | C12H10N3OP
reactant | triethylamine | 3.85 ml | C(C)N(CC)CC | C6H15N
reactant | tryptamine | 27 mmol, 4.32 g | NCCC1=CNC2=CC=CC=C12 | C10H12N2
reactant | N-acetylglycine | 28 mmol, 3.3 g | C(C)(=O)NCC(=O)O | C4H7NO3
solvent | DMF | 100 ml | CN(C)C=O | C3H7NO
product | 2-acetylamino-N-[2-(1H-indol-3-yl)-ethyl]acetamide | 21 mmol, 5.5 g, yield of 78% | C(C)(=O)NCC(=O)NCCC1=CNC2=CC=CC=C12 | C14H17N3O2
